US08067445B2
Step 1: (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid 4-chloro-benzyl ester
Prepared according to the procedure described in Example 56, Step 2, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine and 4-chlorobenzyl chloroformate.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | 4-chlorobenzyl chloroformate | ClC(=O)OCC1=CC=C(C=C1)Cl | C8H6Cl2O2
product | (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid 4-chloro-benzyl ester | ClC1=CC=C(COC(N(CC)CC2=C(C=CC(=C2)C(F)(F)F)Br)=O)C=C1 | C18H16BrClF3NO2
